US08865752B2
Step-3: A solution of N-(4-(2-bromobutanoyl)phenyl)acetamide (4.80 g, 16.9 mmol) in 30 mL CHCl3 and 30 mL MeOH was treated with 16.9 mL dimethylamine in MeOH (2M, 33.8 mmol) and DIPEA (2.90 mL, 16.9 mmol). After stirring at it for 48 hr, the mixture was concentrated in vacuo and the residue partitioned between DCM and saturated NaHCO3. The aqueous phase was extracted with DCM three times. The combined organic extracts were dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography eluting with 6% MeOH (2N NH3)/DCM to provide N-(4-(2-(dimethylamino)butanoyl)phenyl)acetamide as a light brown oil. MS ESI: m/z 249.19 [M+1+].

reactant | N-(4-(2-bromobutanoyl)phenyl)acetamide | 16.9 mmol, 4.80 g | BrC(C(=O)C1=CC=C(C=C1)NC(C)=O)CC | C12H14BrNO2
reactant | dimethylamine | 16.9 mL | CNC | C2H7N
reactant | DIPEA | 16.9 mmol, 2.90 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 30 mL | CO | CH4O
solvent | MeOH | 33.8 mmol, 2M | CO | CH4O
product | N-(4-(2-(dimethylamino)butanoyl)phenyl)acetamide | CN(C(C(=O)C1=CC=C(C=C1)NC(C)=O)CC)C | C14H20N2O2
